US05110925
4,5-Dihydro-6-(4-((2-methyl-3-oxo-1-cyclopentenyl)amino)phenyl)-5-methyl-3(2H)-pyridazinone (Compound No. 15)
A mixture of 0.51 g of 4,5-dihydro-6-(4-aminophenyl)-5-methyl-3(2H) pyridazinone and 0.28 g of 2-methyl-cyclopentane-1,3-dione in 5 ml of ethanol and 5 ml of acetic acid was refluxed over night. After cooling, the solution was evaporated in vacuo. The residue was purified by silica gel column chromatography (eluting solvent: chloroform:methanol=20:1) and recrystallized from methanol to give 0.32 g of the title compound. m.p. 285°-286° C.

reactant | 4,5-dihydro-6-(4-aminophenyl)-5-methyl-3(2H) pyridazinone | 0.51 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 2-methyl-cyclopentane-1,3-dione | 0.28 g | CC1C(CCC1=O)=O | C6H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dihydro-6-(4-((2-methyl-3-oxo-1-cyclopentenyl)amino)phenyl)-5-methyl-3(2H)-pyridazinone | 0.32 g | CC1=C(CCC1=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C17H19N3O2
